US04217357
The procedure described in Example XLVII was repeated except that 1-allyl-3-(imidazol-1-ylmethyl)-5-methoxyindole (1.34 g.) and boron tribromide (1.91 ml.) were the reactant and reagent respectively employed under these same conditions. After basification with sodium bicarbonate, the aqueous layer was extracted with three-100 ml. portions of ethyl acetate and the combined organic extracts were washed with water and subsequently dried over anhydrous magnesium sulfate. Evaporation of the solvent then gave a solid product, which later was crystallized from ethanol to afford pure 1-allyl-5-hydroxy-3-(imidazol-1-ylmethyl)indole (yield, 0.56 g.), m.p. 165°-167° C.

reactant | 1-allyl-3-(imidazol-1-ylmethyl)-5-methoxyindole | 1.34 g | C(C=C)N1C=C(C2=CC(=CC=C12)OC)CN1C=NC=C1 | C16H17N3O
reactant | boron tribromide | 1.91 ml | B(Br)(Br)Br | BBr3
product | 1-allyl-5-hydroxy-3-(imidazol-1-ylmethyl)indole | 0.56 g | C(C=C)N1C=C(C2=CC(=CC=C12)O)CN1C=NC=C1 | C15H15N3O
